2141-06-12 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   A line- unable to flush, attempt at replacement over wire failed,
   removed, cuff pressures
   BP near goal of SBP 200.
   Labetaolol drip re ordered to titrate to SBP 180
   hyperkalemia resolved
   MRI/MRA/MRV without contrast of head ordered, unable to adequately
   perform given motion artifact of head during respiration
   Neuro consult done- will staff in a.m.
   Coumadin Held
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-11**] 06:22 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-6-12**] 12:00 AM
   Hydralazine - [**2141-6-12**] 01:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Neurologic: Headache, R sided headache is improving
   Pain: [**3-14**] Mild
   Flowsheet Data as of  [**2141-6-12**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 81 (81 - 105) bpm
   BP: 197/96(122) {155/96(119) - 269/153(185)} mmHg
   RR: 27 (11 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 54 kg (admission): 54 kg
   Height: 60 Inch
             Total In:
                                                                  1,710 mL
                                                                    809 mL
   PO:
                                                                    200 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    910 mL
                                                                    629 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                      0 mL
   Urine:
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,060 mL
                                                                    809 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///15/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   7.6 g/dL
   99 mg/dL
   7.1 mg/dL
   15 mEq/L
   4.4 mEq/L
   47 mg/dL
   111 mEq/L
   140 mEq/L
   24.2 %
   4.5 K/uL
        [image002.jpg]
                             [**2141-6-11**]  01:07 PM
                             [**2141-6-11**]  02:00 PM
                             [**2141-6-11**]  09:29 PM
   WBC
   4.5
   Hct
   24.2
   Plt
   105
   Cr
   7.4
   7.1
   TropT
   0.05
   Glucose
   102
   99
   Other labs: PT / PTT / INR:22.2/36.7/2.1, CK / CKMB /
   Troponin-T:156/7/0.05, ALT / AST:80/136, Alk Phos / T Bili:115/0.5,
   Differential-Neuts:73.9 %, Band:0.0 %, Lymph:19.1 %, Mono:5.9 %,
   Eos:0.8 %, LDH:729 IU/L, Ca++:7.3 mg/dL, Mg++:1.4 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   23 F with SLE, ESRD not on HD, chronic VTE with RUE and facial swelling
   p/w hypertensive emergency and delta MS.
   .
   # HTN Emergency: BP now roughly 200/100. goal BP today SBP 160,
   diastolic 90-100.  Currently on labetalol drip and prn IV hydralazine.
   -on labetalol drip 5mg / hr and 30mg IV hydral prn SBP > 250.
   -home regimen is clonidine 0.3- patch will need to be replaced today,
   should order this to avoid clonidine w/d hypertension
   -in addition on labetalol 900mg po tid, nifedipine SR 90mg po bid,
   Hydral 25mg po tid, Lasix 40mg po bid (had not yet started taking),
   Diovan 320mg daily.
   -restart home medications, would discontinue the diovan given the
   patient
s presenting hyperkalemia on more than one occasion, may need
   to increase hydral to 50mg po q8hrs
   -continue labetalol drip and titrate down as needed- avoid SBPs less
   than 150- goal SBP 160 today.
   -w/u for secondary causes- perform leg pressures, w/u for pheo may be
   skewed given acute setting, TSH normal 6 months ago, patient seems to
   have OSA- may at least in part be contributing to hypertension.
   Outpatient sleep study.
   # Delta MS. Somnolent but Aox3. Seems releatively clear.  Avoid
   oversedation w/ benzos, home ativan tid prn, hold for now.
   - Neuro consult , f/u neuro recs
   -MRI performed, per report significant motion artifact, f/u read if
   radiology is able to read.
   # VTE. L Brachiocephalic VTE chronic with collaterals. Also h/o other
   VTE [**2-11**] to lines in the past. Currently on coumadin. INR 2.1.  Hold
   coumadin for now.
   - start IV heparin once INR <2 since patient may need procedures/lines
   # Facial Swelling. Unclear etiology likely [**2-11**] to VTE in RUE
   (brachiocephalic) vs. angioedema.
   - hold ACE/[**Last Name (un) 239**] for now
   - IV heparin when INR <2, restart coumadin once stable, no need for
   lines etc.
   - follow clinically.
   # ESRD. Currently no on HD due to patient preference, awaiting to start
   PD next week.
   -seems euvolemic
   -electrolyte abnormalities have corrected
   -hyperkalemia- possibly due to microangiopathic hemolytic anemia,
   resolved, hold [**Last Name (un) 239**], renal diet (does not practice renal diet at home)
   -f/u renal recs
   # Metabolic Acidosis: renal failure related most likely.
   -restart home regimen of sodium bicarb tabs 650mg- 2 tabs daily
   - [**Hospital1 **] lytes
   # SLE. On prednisone chronically, likely needs PCP [**Name9 (PRE) **] at some point
   --Atovaquone to prevent hyperkalemia
   -continue prednisone 10mg daily
   # PPX: IV heparin once INR <2, PPI
   # FEN: Electrolytes as above, renal diet.
   # Access: 2x PIV currently
   # Code: Full
   .
   # Dispo: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-6-11**] 12:17 PM
   18 Gauge - [**2141-6-11**] 01:38 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-13 08:10:00 Physician Resident Progress Note
Chief Complaint: Hypertensive Emergency
   24 Hour Events:
   Labetalol gtt off as pt dropped bp to 120s following addition of po
   meds
   titrating po meds
   Neuro recs - consider repeat MRV, Started keppra for seizure prophy
   Renal wants to start a direct renin inhibitor ASAP - will have to
   discuss w/ pharmacy in am - non-formulary
   Unable to trial CPAP o/n - CPAP in use by next door neighbor
   Allergies:
   Penicillins
   [**Name (NI) **];
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-12**] 06:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Flowsheet Data as of  [**2141-6-13**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 90 (71 - 100) bpm
   BP: 154/94(106) {121/58(74) - 196/141(148)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 54 kg
   Height: 60 Inch
                  Total In:
                                                                  1,930 mL
                  PO:
                                                                    380 mL
                  TF:
   IVF:
                                                                  1,550 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    150 mL
   Urine:
                                                                    350 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,580 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.37/28/68/16/-7
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   91 K/uL
   6.9 g/dL
   96 mg/dL
   7.6 mg/dL
   16 mEq/L
   4.7 mEq/L
   48 mg/dL
   110 mEq/L
   139 mEq/L
   21.8 %
   4.1 K/uL
        [image002.jpg]
                             [**2141-6-11**]  01:07 PM
                             [**2141-6-11**]  02:00 PM
                             [**2141-6-11**]  09:29 PM
                             [**2141-6-12**]  06:00 AM
                             [**2141-6-12**]  02:50 PM
                             [**2141-6-12**]  04:11 PM
                             [**2141-6-12**]  08:50 PM
                             [**2141-6-13**]  03:09 AM
   WBC
   4.5
   3.3
   4.0
   4.1
   Hct
   24.2
   23.0
   21.9
   22.0
   21.8
   Plt
   105
   84
   91
   91
   Cr
   7.4
   7.1
   7.3
   7.0
   7.6
   TropT
   0.05
   TCO2
   17
   Glucose
   102
   99
   104
   99
   96
   Other labs: PT / PTT / INR:22.5/37.9/2.2, CK / CKMB /
   Troponin-T:156/7/0.05, ALT / AST:80/136, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:73.9 %, Band:0.0 %, Lymph:19.1 %, Mono:5.9 %,
   Eos:0.8 %, Lactic Acid:0.7 mmol/L, LDH:279 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.7 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   23 F with SLE, ESRD not on HD, chronic VTE with RUE and facial swelling
   p/w hypertensive emergency and delta MS.
   # HTN Emergency: BP much better controlled, now on Nifedipine 30mg CR
   [**Hospital1 **], on hydral 25mg po tid (home dose), clonidine patch, not on
   labetalol.
   -can continue uptitrating Nifedipine CR as tolerated then next step
   will be to add labetalol (increase nifedipine to 60mg [**Hospital1 **] now and may
   increase to 90mg po bid in p.m.)
   -per renal, requesting adding direct renin inhibitor, discuss with
   pharmacy as may not be availble
   -leg pressures systolic 10 points higher than upper ext.
   -secondary causes, when not in acute setting 24hr urine metanephrines,
   TSH normal, CPAP trial while inpatient vs outpatient sleep study
   # Previous Seizure in setting of HTN and possible PRES: per neuro start
   Keppra [**Hospital1 **].
   -MRI read: On the FLAIR sequence, there is evidence of hyperintensity
   areas in the parietal regions, left occipital lobe, which are
   nonspecific and may represent possible
   posterior reversible encephalopathic changes.
   # VTE. L Brachiocephalic VTE chronic with collaterals. Also h/o other
   VTE [**2-11**] to lines in the past. Currently on coumadin. INR 2.2.  Hold
   coumadin for now.  Restart likely tomorrow as patient rec'd cipro for
   UTI and likely this is increasing INR.
   # Facial Swelling. Unclear etiology likely [**2-11**] to VTE in RUE
   (brachiocephalic) vs. angioedema.
   - hold ACE/[**Last Name (un) 239**] for now
   - IV heparin when INR <2, restart coumadin once stable, no need for
   lines etc.
   - follow clinically.
   # ESRD. Currently no on HD due to patient preference, awaiting to start
   PD next week.
   -seems euvolemic
   -for hyperkalemia on standing kayexalate, start lasix 40mg po bid today
   as was outpatient plan and then d/c kayexalate
   -f/u renal recs
   -patient requesting regular diet, states she never complies with renal
   diet, discuss low potassium diet
   # Metabolic Acidosis: renal failure related most likely.
   -home regimen of sodium bicarb tabs 650mg- 2 tabs daily
   - [**Hospital1 **] lytes
   # Anemia: drop in hct and plts but now stable, [**Hospital1 **] cbc.  since seems to
   have stabilized and BP is controlled likely aggrevating factor is no
   longer present.
   # SLE. On prednisone chronically, likely needs PCP [**Name9 (PRE) **] at some point
   --Atovaquone to prevent hyperkalemia
   -continue prednisone 10mg daily
   # Dispo: ICU level of care, may call out later today or tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-6-11**] 12:17 PM
   18 Gauge - [**2141-6-11**] 01:38 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2141-06-13 10:49:00 Physician Attending Progress Note
Chief Complaint: Hypertensive urgency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Feeling more alert. HA has resolved. Transitioned to po meds
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-12**] 06:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-13**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 92 (71 - 100) bpm
   BP: 170/104(117) {121/58(74) - 196/141(148)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 54 kg
   Height: 60 Inch
                  Total In:
                                                                  1,930 mL
                  PO:
                                                                    380 mL
                  TF:
   IVF:
                                                                  1,550 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    350 mL
   Urine:
                                                                    350 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,580 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.37/28/68/16/-7
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: enucleated L eye
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, PD catheter
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   91 K/uL
   96 mg/dL
   7.6 mg/dL
   16 mEq/L
   4.7 mEq/L
   48 mg/dL
   110 mEq/L
   139 mEq/L
   21.8 %
   4.1 K/uL
        [image002.jpg]
                             [**2141-6-11**]  01:07 PM
                             [**2141-6-11**]  02:00 PM
                             [**2141-6-11**]  09:29 PM
                             [**2141-6-12**]  06:00 AM
                             [**2141-6-12**]  02:50 PM
                             [**2141-6-12**]  04:11 PM
                             [**2141-6-12**]  08:50 PM
                             [**2141-6-13**]  03:09 AM
   WBC
   4.5
   3.3
   4.0
   4.1
   Hct
   24.2
   23.0
   21.9
   22.0
   21.8
   Plt
   105
   84
   91
   91
   Cr
   7.4
   7.1
   7.3
   7.0
   7.6
   TropT
   0.05
   TCO2
   17
   Glucose
   102
   99
   104
   99
   96
   Other labs: PT / PTT / INR:22.5/37.9/2.2, CK / CKMB /
   Troponin-T:156/7/0.05, ALT / AST:80/136, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:73.9 %, Band:0.0 %, Lymph:19.1 %, Mono:5.9 %,
   Eos:0.8 %, Lactic Acid:0.7 mmol/L, LDH:279 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.7 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   Hypertensive urgency
   SLE
   ESRD
   Anemia
   PRES
   OSA
   Transitioning to po antihypertensives. Will initiate PD today with plan
   to remove fluid slowly. Hct is stable at 20 but continues to have low
   grade hemolysis.  Have started Kepra per Neuro for sz prophylaxis. Will
   try Auto-CPAP tonight
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2141-6-11**] 01:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2141-06-14 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Did not receive direct renin inhibitor as pharmacy had to order  med.
   [**Month (only) 60**] arrive this AM
   Increased dose of nifedipine and added back labetalol as persistently
   hypertensive
   K of 5.1 in PM  - gave kayexelate
   Did not get peritoneal dialysis as PD catheter clogged - got AXR to
   check placement.
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-12**] 06:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-14**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 92 (85 - 103) bpm
   BP: 183/96(119) {131/72(85) - 199/119(132)} mmHg
   RR: 23 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 54 kg
   Height: 60 Inch
                  Total In:
                                                                  1,800 mL
                  PO:
                                                                  1,680 mL
                  TF:
   IVF:
                                                                    120 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    300 mL
   Urine:
                                                                    850 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    950 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): 3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   104 K/uL
   7.0 g/dL
   88 mg/dL
   7.4 mg/dL
   17 mEq/L
   4.1 mEq/L
   46 mg/dL
   109 mEq/L
   141 mEq/L
   23.1 %
   3.7 K/uL
        [image002.jpg]
                             [**2141-6-11**]  01:07 PM
                             [**2141-6-11**]  02:00 PM
                             [**2141-6-11**]  09:29 PM
                             [**2141-6-12**]  06:00 AM
                             [**2141-6-12**]  02:50 PM
                             [**2141-6-12**]  04:11 PM
                             [**2141-6-12**]  08:50 PM
                             [**2141-6-13**]  03:09 AM
                             [**2141-6-13**]  03:14 PM
                             [**2141-6-14**]  04:30 AM
   WBC
   4.5
   3.3
   4.0
   4.1
   4.9
   3.7
   Hct
   24.2
   23.0
   21.9
   22.0
   21.8
   23.2
   23.1
   Plt
   105
   84
   91
   91
   99
   104
   Cr
   7.4
   7.1
   7.3
   7.0
   7.6
   7.8
   7.4
   TropT
   0.05
   TCO2
   17
   Glucose
   102
   99
   104
   99
   96
   123
   88
   Other labs: PT / PTT / INR:15.2/33.7/1.3, CK / CKMB /
   Troponin-T:156/7/0.05, ALT / AST:80/136, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:73.9 %, Band:0.0 %, Lymph:19.1 %, Mono:5.9 %,
   Eos:0.8 %, Lactic Acid:0.7 mmol/L, LDH:279 IU/L, Ca++:6.8 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   23 F with SLE, ESRD not on HD, chronic VTE with RUE and facial swelling
   p/w hypertensive emergency and delta MS.
   # HTN Emergency: BP much better controlled, now on Nifedipine 60mg CR
   [**Hospital1 **], on hydral 25mg po tid (home dose), clonidine patch. Restarted
   labetalol. Aliskerin not available. Ordered. Should be available today.
   -can continue uptitrating Nifedipine CR and labetalol
   -Begin renin inhibitor today if available
   - follow up renal recs
   # Previous Seizure in setting of HTN and possible PRES: per neuro start
   Keppra [**Hospital1 **].
   -MRI read: On the FLAIR sequence, there is evidence of hyperintensity
   areas in the parietal regions, left occipital lobe, which are
   nonspecific and may represent possible posterior reversible
   encephalopathic changes.
   - Neuro signed off
   # VTE. L Brachiocephalic VTE chronic with collaterals. Also h/o other
   VTE [**2-11**] to lines in the past. Currently on coumadin. INR 2.2.  Hold
   coumadin for now.  Restart likely tomorrow as patient rec'd cipro for
   UTI and likely this is increasing INR.
   - Restart coumadin when
   # Facial Swelling. Unclear etiology likely [**2-11**] to VTE in RUE
   (brachiocephalic) vs. angioedema.
   - hold ACE/[**Last Name (un) 239**] for now
   - IV heparin when INR <2, restart coumadin once stable, no need for
   lines etc.
   - follow clinically.
   # ESRD. Currently not on HD due to patient preference, awaiting to
   start PD next week.
   -seems euvolemic
   -for hyperkalemia on standing kayexalate,
   - start lasix today
   -f/u renal recs
   -patient requesting regular diet, states she never complies with renal
   diet, discuss low potassium diet
   # Metabolic Acidosis: renal failure related most likely.
   -home regimen of sodium bicarb tabs 650mg- 2 tabs daily
   - [**Hospital1 **] lytes
    # Anemia: drop in hct and plts but now stable, [**Hospital1 **] cbc.  since seems
   to have stabilized and BP is controlled likely aggrevating factor is no
   longer present.
    # SLE. On prednisone chronically, likely needs PCP [**Name9 (PRE) **] at some point
   --Atovaquone to prevent hyperkalemia
   -continue prednisone 10mg daily
    # Dispo: ICU level of care, may call out later today or tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-6-11**] 01:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-06-14 09:49:00 Physician Attending Progress Note
Chief Complaint: Hypertensive urgency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   To initiate PD today
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-12**] 06:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-14**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 87 (85 - 103) bpm
   BP: 204/133(148) {131/72(85) - 204/133(148)} mmHg
   RR: 17 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 54 kg
   Height: 60 Inch
                  Total In:
                                                                  1,800 mL
                                                                    400 mL
   PO:
                                                                  1,680 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    120 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    300 mL
   Urine:
                                                                    850 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    950 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, narrow airway
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, PD catheter
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.0 g/dL
   104 K/uL
   88 mg/dL
   7.4 mg/dL
   17 mEq/L
   4.1 mEq/L
   46 mg/dL
   109 mEq/L
   141 mEq/L
   23.1 %
   3.7 K/uL
        [image002.jpg]
                             [**2141-6-11**]  01:07 PM
                             [**2141-6-11**]  02:00 PM
                             [**2141-6-11**]  09:29 PM
                             [**2141-6-12**]  06:00 AM
                             [**2141-6-12**]  02:50 PM
                             [**2141-6-12**]  04:11 PM
                             [**2141-6-12**]  08:50 PM
                             [**2141-6-13**]  03:09 AM
                             [**2141-6-13**]  03:14 PM
                             [**2141-6-14**]  04:30 AM
   WBC
   4.5
   3.3
   4.0
   4.1
   4.9
   3.7
   Hct
   24.2
   23.0
   21.9
   22.0
   21.8
   23.2
   23.1
   Plt
   105
   84
   91
   91
   99
   104
   Cr
   7.4
   7.1
   7.3
   7.0
   7.6
   7.8
   7.4
   TropT
   0.05
   TCO2
   17
   Glucose
   102
   99
   104
   99
   96
   123
   88
   Other labs: PT / PTT / INR:15.2/33.7/1.3, CK / CKMB /
   Troponin-T:156/7/0.05, ALT / AST:80/136, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:73.9 %, Band:0.0 %, Lymph:19.1 %, Mono:5.9 %,
   Eos:0.8 %, Lactic Acid:0.7 mmol/L, LDH:279 IU/L, Ca++:6.8 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   Hypertensive urgency
   SLE
   ESRD
   Hemolytic anemia
   Immunosuppression
   UTI
   Plan to initiate PD today. BP remains elevated - we are restarting her
   out patient meds.  Nifedipine is a problem - she is responsive but too
   responsive as BP drops. Will increase labetolol first then consider
   increasing Ca++ channel blocker.  Hct stable
   ICU Care
   Nutrition:
   Comments: Regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2141-6-11**] 01:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2141-06-15 07:26:00 Physician Resident Progress Note
Chief Complaint: Hypertensive Emergency
   24 Hour Events: increased nifedipine to home dose of 90mg [**Hospital1 **]
   labetalol to home dose of 900mg tid
   started renin inhibitor at starting dose
   PD cathter in wrong place, repeat upright KUB performed
   lactulose written until two soft BMs to help w/ PD catheter placement.
   direct renin inhibitor started
   per renal start prn hydral.  25mg po hydral q8hrs started for SBP >
   160.  Patient ideally will continue this sliding scale at home.
   11 p.m. BP 220/120- given 25mg po hydral prn dose x 1 and gave
   additional 20mg IV labetalol
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-12**] 06:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-6-14**] 10:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-15**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 85 (80 - 107) bpm
   BP: 147/80(96) {131/80(94) - 224/193(197)} mmHg
   RR: 26 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 54 kg
   Height: 60 Inch
                  Total In:
                                                                  1,000 mL
                  PO:
                                                                  1,000 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    400 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   114 K/uL
   6.9 g/dL
   77 mg/dL
   7.1 mg/dL
   16 mEq/L
   3.7 mEq/L
   42 mg/dL
   110 mEq/L
   140 mEq/L
   22.3 %
   3.6 K/uL
        [image002.jpg]
                             [**2141-6-11**]  02:00 PM
                             [**2141-6-11**]  09:29 PM
                             [**2141-6-12**]  06:00 AM
                             [**2141-6-12**]  02:50 PM
                             [**2141-6-12**]  04:11 PM
                             [**2141-6-12**]  08:50 PM
                             [**2141-6-13**]  03:09 AM
                             [**2141-6-13**]  03:14 PM
                             [**2141-6-14**]  04:30 AM
                             [**2141-6-15**]  05:00 AM
   WBC
   4.5
   3.3
   4.0
   4.1
   4.9
   3.7
   3.6
   Hct
   24.2
   23.0
   21.9
   22.0
   21.8
   23.2
   23.1
   22.3
   Plt
   105
   84
   91
   91
   99
   104
   114
   Cr
   7.1
   7.3
   7.0
   7.6
   7.8
   7.4
   7.1
   TCO2
   17
   Glucose
   99
   104
   99
   96
   123
   88
   77
   Other labs: PT / PTT / INR:13.6/31.6/1.2, CK / CKMB /
   Troponin-T:156/7/0.05, ALT / AST:80/136, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:73.9 %, Band:0.0 %, Lymph:19.1 %, Mono:5.9 %,
   Eos:0.8 %, Lactic Acid:0.7 mmol/L, LDH:279 IU/L, Ca++:6.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   23 F with SLE, ESRD not on HD, chronic VTE with RUE and facial swelling
   p/w hypertensive emergency and delta MS.
   .
   # HTN Emergency: Elevated this AM to 220/110. On Nifedipine 90mg CR
   [**Hospital1 **], on hydral 25mg po tid (home dose), clonidine patch. Restarted
   labetalol 900 tid. Aliskerin started yesterday per renal recs. Pt w/
   continued hypertension. Plan to continue increased hydral sliding scale
   for BP.
   - appreciate renal recs
   - hope for BP improvement following PD initiation
   .
   # Previous Seizure in setting of HTN and possible PRES: per neuro start
   Keppra [**Hospital1 **].
   -MRI read: On the FLAIR sequence, there is evidence of hyperintensity
   areas in the parietal regions, left occipital lobe, which are
   nonspecific and may represent possible posterior reversible
   encephalopathic changes.
   - Neuro signed off; contact regarding whether we can stop keppra
   .
   # VTE. L Brachiocephalic VTE chronic with collaterals. Also h/o other
   VTE [**2-11**] to lines in the past. Currently on coumadin. INR 1.3 today
   - Continuet coumadin -5 mg today then restart home dose
   .
   # Facial Swelling. Unclear etiology likely [**2-11**] to VTE in RUE
   (brachiocephalic) vs. angioedema.
   - hold ACE/[**Last Name (un) 239**] for now
   - follow clinically.
   .
   # ESRD. Currently not on HD due to patient preference; Plan for
   initiation of PD
 on repeat Xray catheter in place, follow up on PD
   nursing input prior to starting PD today
 not yet seen today prior to
   transfer
   - previously on kayexelate
   - continue lasix with plan to d/c kayexalate
 lasix held this am for
   hypokalemia
   -f/u renal recs
   -patient requesting regular diet, states she never complies with renal
   diet, discuss low potassium diet
   .
   # Metabolic Acidosis: renal failure related most likely.
   -home regimen of sodium bicarb tabs 650mg- 2 tabs daily
   - [**Hospital1 **] lytes
   .
    # Anemia: drop in hct and plts but now stable, [**Hospital1 **] cbc.
   - monitor daily
   .
    # SLE. On prednisone chronically, likely needs PCP [**Name9 (PRE) **] at some point
   --Atovaquone to prevent hyperkalemia
   -continue prednisone 10mg daily
   .
    # Dispo: transfer to floor
   ICU Care
   Nutrition:
   Glycemic Control:  well- controlled
   Lines:
   22 Gauge - [**2141-6-14**] 02:11 PM
   Prophylaxis:
   DVT:  coumadin
   Stress ulcer: NA
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to floor
   ------ Protected Section ------
   Pysical Exam:
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
 PD catheter in
   place
   Extremities: Edema - Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): 3,
   Movement: Not assessed, Tone: Not assessed
   ------ Protected Section Addendum Entered By:[**Name (NI) 16**] [**Last Name (NamePattern1) 2951**], MD
   on:[**2141-6-15**] 13:07 ------

2141-06-15 10:59:00 Physician Attending Progress Note
Chief Complaint: Hypertensive urgency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   c/o nausea this am, mild abd pain
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-6-12**] 06:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2141-6-15**] 09:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-6-15**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 98 (80 - 107) bpm
   BP: 183/101(119) {131/80(94) - 224/193(197)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 54 kg
   Height: 60 Inch
                  Total In:
                                                                  1,000 mL
                  PO:
                                                                  1,000 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    400 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), II/VI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, mild peri umbilical tenderness
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   114 K/uL
   77 mg/dL
   7.1 mg/dL
   16 mEq/L
   3.7 mEq/L
   42 mg/dL
   110 mEq/L
   140 mEq/L
   22.3 %
   3.6 K/uL
        [image002.jpg]
                             [**2141-6-11**]  02:00 PM
                             [**2141-6-11**]  09:29 PM
                             [**2141-6-12**]  06:00 AM
                             [**2141-6-12**]  02:50 PM
                             [**2141-6-12**]  04:11 PM
                             [**2141-6-12**]  08:50 PM
                             [**2141-6-13**]  03:09 AM
                             [**2141-6-13**]  03:14 PM
                             [**2141-6-14**]  04:30 AM
                             [**2141-6-15**]  05:00 AM
   WBC
   4.5
   3.3
   4.0
   4.1
   4.9
   3.7
   3.6
   Hct
   24.2
   23.0
   21.9
   22.0
   21.8
   23.2
   23.1
   22.3
   Plt
   105
   84
   91
   91
   99
   104
   114
   Cr
   7.1
   7.3
   7.0
   7.6
   7.8
   7.4
   7.1
   TCO2
   17
   Glucose
   99
   104
   99
   96
   123
   88
   77
   Other labs: PT / PTT / INR:13.6/31.6/1.2, CK / CKMB /
   Troponin-T:156/7/0.05, ALT / AST:80/136, Alk Phos / T Bili:115/0.4,
   Differential-Neuts:73.9 %, Band:0.0 %, Lymph:19.1 %, Mono:5.9 %,
   Eos:0.8 %, Lactic Acid:0.7 mmol/L, LDH:279 IU/L, Ca++:6.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   Hypertensive urgency
   SLE
   Anemia
   ESRD
   Peritoneal dialysis
   OSA
   H/O PRESS
   UE thrombosis
   BP remains labile and difficult to control on home regime.  Plan to
   initiate PD if catheter can be cleared.  Hopefully BP will be easier to
   control on dialysis. C/O nausea this am but exam is relatively benign.
   Will watch through day.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2141-6-14**] 02:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes